US08232289B2
To a solution of (2-chloro-3-pyridyl)methanamine (300 mg, 2.10 mmol) in dichloromethane (2 mL) at room temperature is added acetic acid anhydride (198.88 mL, 2.10 mmol) and triethylamine (293.26 mL, 2.10 mmol). After 1 h the reaction is quenched with saturated aqueous solution of sodium bicarbonate and extracted with dichloromethane. The organic layer was separated, dried over magnesium sulfate and the solvent evaporated in vacuo to afford 184 mg of N-[(2-chloro-3-pyridyl)methyl]acetamide. MS (m/z): 185 (M+1)

reactant | (2-chloro-3-pyridyl)methanamine | 2.10 mmol, 300 mg | ClC1=NC=CC=C1CN | C6H7ClN2
reactant | acetic acid anhydride | 2.10 mmol, 198.88 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 2.10 mmol, 293.26 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-[(2-chloro-3-pyridyl)methyl]acetamide | 184 mg | ClC1=NC=CC=C1CNC(C)=O | C8H9ClN2O
